US07812045B2
2-(2,4-Difluorophenyl)-1-(2H-indazol-1-yl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol
To a suspension of Indazole (0.27 g, 2.32 mmol) in N, N-dimethylformamide (10 ml) was slowly added sodium hydride (0.093 g, 2.32 mmol) at 0° C., followed by stirring for 30 min and then for an additional 30 min at room temperature. Then, 1-((2-(2,4-difluorophenyl)oxiran-2-yl)methyl)-1H-1,2,4-triazole (0.50 g, 2.11 mmol) was added, followed by stirring for 2 hrs at 60° C. The reaction was quenched with the addition of water (1 ml) at 0° C. Following dilution with ethyl acetate (20 ml), the reaction mixture was washed with saturated ammonium chloride solution (20 ml) and then with brine (20 ml). The organic layer was dried over anhydrous magnesium sulfate and concentrated by evaporation in a vacuum condition. The product was purified by chromatography on silica gel to give the title compound (Yield 44%).

reactant | Indazole | 2.32 mmol, 0.27 g | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | sodium hydride | 2.32 mmol, 0.093 g | [H-].[Na+]
reactant | 1-((2-(2,4-difluorophenyl)oxiran-2-yl)methyl)-1H-1,2,4-triazole | 2.11 mmol, 0.50 g | FC1=C(C=CC(=C1)F)C1(OC1)CN1N=CN=C1 | C11H9F2N3O
solvent | N, N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(2,4-Difluorophenyl)-1-(2H-indazol-1-yl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | Yield 44% | FC1=C(C=CC(=C1)F)C(CN1NCC2=CC=CC=C12)(CN1N=CN=C1)O | C18H17F2N5O
